US08044068B2
Synthesis of t-butyl 4-(2-((S)-pyrrolidin-3-ylamino)quinazolin-4-yl)piperazine-1-carboxylate
t-Butyl 4-(2-((S)-1-benzylpyrrolidin-3-ylamino)quinazolin-4-yl)piperazine-1-carboxylate (26 g) was dissolved in methanol (260 mL), followed by addition of 20% Pd(OH)2/C (5.2 g), and the mixture was stirred under hydrogen atmosphere at room temperature for 16 h and at 50° C. for 8 h. 20% Pd(OH)2/C (5.2 g) was further added, and the mixture was stirred under hydrogen atmosphere for 3 days. The catalyst was removed by filtration, then the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform/a solution of 1 M ammonium in methanol=9:1) to obtain the title compound (6.3 g).

reactant | t-Butyl 4-(2-((S)-1-benzylpyrrolidin-3-ylamino)quinazolin-4-yl)piperazine-1-carboxylate | 26 g | C(C1=CC=CC=C1)N1C[C@H](CC1)NC1=NC2=CC=CC=C2C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C28H36N6O2
solvent | methanol | 260 mL | CO | CH4O
catalyst | Pd(OH)2/C | 5.2 g | [OH-].[OH-].[Pd+2]
catalyst | Pd(OH)2/C | 5.2 g | [OH-].[OH-].[Pd+2]
product | t-butyl 4-(2-((S)-pyrrolidin-3-ylamino)quinazolin-4-yl)piperazine-1-carboxylate | 6.3 g | N1C[C@H](CC1)NC1=NC2=CC=CC=C2C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C21H30N6O2
